Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],4.9895852854900005
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.38795636074
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],4.41977662651
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.42978587036
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],2.78790198137
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],1.28378737888
[H:1][C:2][O:12][C:9]([C:4](=[O:3])[C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1,-0.315660365621
[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])#[C:13][H:14].[H:1][C:2]([C:11][H:12])([H:15])[H:16]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-2.7689354392900003
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[C:4]([H:5])([H:6])[O:7][C:8][H:9].[O:1]=[C:2][H:3],3.5924298473400005
[H:1][C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.6141584282700014
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][H:8]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8],-0.472954703091
[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:7].[O:1]=[C:2][O:3][C:4]#[C:5][H:6],2.54156659733
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.04484778756
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-2.26115702946
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13],-5.27959771655
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],5.163247911619999
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.41178658994
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.67044859945
[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.23609642522
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],5.33931547252
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9][H:10],4.84122262543
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.78204093176
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9],-7.157177529439999
[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10][H:11],4.3101282572800015
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:9][H:10].[H:8]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-2.01185356923
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.4387297337
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.3034241960000004
[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.012665883
[H:1][C:2]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.1978274222600005
